US06680326B2
a) Preparation of 3-methyl-5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester
6-Methyl-pyridine-3,4-dicarboxylic acid (440 mg) (see Emil J. Moriconi and Francis A. Spano, J. Am. Chem. Soc., Vol. 86, Pp. 38-46, 1964) was suspended in acetic anhydride (10 ml) and the mixture was refluxed for 10 minutes. Ethyl acetoacetate (0.325 ml) and triethylamine (0.745 ml) were dropwise added to the mixture at room temperature and the mixture was stirred overnight. The mixture was concentrated to dryness and purified by silica gel column chromatography developed by dichloromethane and by dichloromethane-methanol (15:1). The desired compound was obtained as a dark red oil which contained 1 equivalent of triethylamine. ESI−MS: m/z 234 (MH+); 1H-NMR (CDCl3): δ1.26-1.38 (15H, m), 2.63 (3H, s), 3.28 (6H, q, J=3.3 Hz), 4.22 (2H, q, J=4.2 Hz), 7.29 (1H, s), 8.58 (1H, s).

reactant | 6-Methyl-pyridine-3,4-dicarboxylic acid | 440 mg | CC1=CC(=C(C=N1)C(=O)O)C(=O)O | C8H7NO4
reactant | Ethyl acetoacetate | 0.325 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | triethylamine | 0.745 ml | C(C)N(CC)CC | C6H15N
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-methyl-5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C=2C=C(N=CC2C1=O)C)=O | C12H11NO4
